US07163940B2
To a cold (0° C.) solution of 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine (5.0 g, 20.2 mmol) in tetrahydrofuran (81 mL) was added N-bromosuccinimide (3.79 g, 21.2 mmol) in two portions. The solution solidified after 5 minutes and additional tetrahydrofuran was added (20 mL). The resultant solution was stirred for 15 minutes. Saturated aqueous sodium bicarbonate and ether were added and the layers separated. The organic layer was washed with brine. The aqueous layers were extracted with ethyl acetate and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by recrystallization from ethyl acetate-hexane-methanol provided 3-bromo-7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine (5.7 g, 87%) as a crystalline solid. 1H NMR (CDCl3) δ 8.07 (dd, 2H), 7.53 (d, 1H), 7.23–7.16 (m, 3H), 6.98 (d, 1H); 19F NMR (CDCl3) δ −112.60; MS m/z 325 (M+1).

reactant | 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine | 20.2 mmol, 5.0 g | ClC1=CC=CC=2N1N=C(C2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | N-bromosuccinimide | 21.2 mmol, 3.79 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 81 mL | O1CCCC1 | C4H8O
product | 3-bromo-7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine | 5.7 g, 87% | BrC=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C13H7BrClFN2
